US06407121B1
A mixture of 0.141 g of 2-methylthio-4-(2-chloroethyl)-5-(4-fluorophenyl)imidazole, 2-methylthio-5-(2-chloroethyl)-4-(4-fluorophenyl)imidazole, 0.095 g of 4-(5-fluoro-1H-benzotriazol-1-yl)piperidine, 0.19 ml of diisopropylethylamine and 0.6 ml of methanol was stirred with heating under reflux for 17 hours. After the mixture was cooled to room temperature, the solvent was distilled off under reduced pressure, and the residue was purified by a flush chromatography (silica gel: Chromatorex NHDM1020, eluent: hexane-ethyl acetate=1:3). The purified product was recrystallized from ethanol-hexane to obtain 0.104 g of 2-methylthio-4-(4-fluorophenyl)-5-[2-[4-(5-fluoro-1H-benzotriazol-1-yl)piperidin-1-yl]ethyl]imidazole {2-methylthio-5-(4-fluorophenyl)-4-[2-[4-(5-fluoro-1H-benzotriazol-1-yl)piperidin-1-yl]ethyl]imidazole}.

reactant | 2-methylthio-4-(2-chloroethyl)-5-(4-fluorophenyl)imidazole | 0.141 g | CSC=1NC(=C(N1)CCCl)C1=CC=C(C=C1)F | C12H12ClFN2S
reactant | 2-methylthio-5-(2-chloroethyl)-4-(4-fluorophenyl)imidazole | CSC=1NC(=C(N1)C1=CC=C(C=C1)F)CCCl | C12H12ClFN2S
reactant | 4-(5-fluoro-1H-benzotriazol-1-yl)piperidine | 0.095 g | FC1=CC2=C(N(N=N2)C2CCNCC2)C=C1 | C11H13FN4
reactant | diisopropylethylamine | 0.19 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | methanol | 0.6 ml | CO | CH4O
product | 2-methylthio-4-(4-fluorophenyl)-5-[2-[4-(5-fluoro-1H-benzotriazol-1-yl)piperidin-1-yl]ethyl]imidazole | 0.104 g | CSC=1NC(=C(N1)C1=CC=C(C=C1)F)CCN1CCC(CC1)N1N=NC2=C1C=CC(=C2)F | C23H24F2N6S
